US06355799B1
Preparation of 3-[4-chloro-6-fluoro-3-hydroxy-2-(2-naphthoylamino)phenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 2-114)
3-(2-Amino-4-chloro-6-fluoro-3-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (0.50 g, 1.4 mmol) and 2-naphthoyl chloride (0.27 g, 1.4 mmol) were dissolved in 1,4-dioxane (10 ml) and the solution heated under reflux for 4 hr. Solvent was evaporated under reduced pressure and the product purified by column chromatography on silica gel (eluent, hexan-ethyl acetate, 8:2) to furnish the title compound (0.60 g).

reactant | 3-(2-Amino-4-chloro-6-fluoro-3-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 1.4 mmol, 0.50 g | NC1=C(C(=CC(=C1O)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C12H8ClF4N3O3
reactant | 2-naphthoyl chloride | 1.4 mmol, 0.27 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[4-chloro-6-fluoro-3-hydroxy-2-(2-naphthoylamino)phenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 0.60 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NC(=O)C1=CC2=CC=CC=C2C=C1)O | C23H14ClF4N3O4
